US08053457B2
[2-(2-Aminomethyl-5-chloro-phenoxy)-ethyl]-dimethyl-amine
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 2-dimethylamino-ethanol analogously to the preparation of Intermediate 113.1. colorless oil; ES-MS: M+=229.2; HPLC: AtRet=1.18 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 2-dimethylamino-ethanol | CN(CCO)C | C4H11NO
product | [2-(2-Aminomethyl-5-chloro-phenoxy)-ethyl]-dimethyl-amine | NCC1=C(OCCN(C)C)C=C(C=C1)Cl | C11H17ClN2O
